* D:\Dokumente\Projekte\Spannungsreferenz\3458A Ref A9 Clone - MiDi\Simulations\ADR1000 9.3mA.asc
R2 REF N002 {R2}
R1 IZSET 0 {R1}
R3 REF N005 {R3}
C4 N002 0 10n
R4 REF DIV {R4}
R5 DIV 0 666.7
R9 N006 N004 1Meg
C1 DIV N006 100n
C3 N005 0 0.1µ
D1 DIODE 0 1N4148
XU3 N005 DIV IN 0 N004 LT1013
Q3 IN N003 HEATER+ 0 2N3904
R11 N004 N003 1k
XU2 N002 IZSET IN 0 N001 LT1013
XU4 HEATER+ DIODE REF IZSET N002 DIV 0 N005 TEMP ADR1000
D2 N001 REF 1N4148
V1 IN 0 30
C2 DIV N004 10p
.model D D
.lib C:\Users\MiDi\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\MiDi\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R1=50 R2=5k7 R3=62k R4=8k
.tran 0 1000 1m startup
.meas out param V(REF) ; final value of V(REF)
.options numdgt=15 measdgt=10 plotwinsize=0
;.temp -30 -20 -10 0 10 20 30 40
;.step param R1 list 22 33 50 75 120
;.step param R2 list 5k6943 5k7 5k7057 61k938 62k 62k062
;.step param R1 list 50 50.05 120 120.12
;.step param R3 list 62k 62k062
.step param R4 list 8k 8k008
.step param R2 list 5k7 62k
* Unheated TC: -31.7ppm/K linear -30 .. 40°C with R2=61k9\nzTC with R2=5k7
* A lengthy .tran often gives more accurate DC information than a .op.\nTo see drift vs temp, type Ctrl-L, right click=>Plot .step'ed .meas data
* 10nF slight overshoot at high ambient temperatures\nw/o critically damped
.lib ADR1000.sub
.lib LTC.lib
.backanno
.end
