* D:\Dokumente\Projekte\Spannungsreferenz\3458A Ref A9 Clone - MiDi\Simulations\JFET current source.asc
J1 N001 N002 N003 4392
V1 N001 0 {V1}
R1 N003 N002 470
V2 N002 0 6.6
.model NJF NJF
.model PJF PJF
.lib C:\Users\MiDi\AppData\Local\LTspice\lib\cmp\standard.jft
;.tran 1
.param vto=-2.808 V1=18
;.step param vto -1.417 -5.27 0.2
;.step param vto -4 -10 2                  ;4391 Vgsoff 4..10V
.step param vto -2 -5 1                    ;4392 Vgsoff 2..5V
;.step param vto -0.5 -3 0.5             ;4393 Vgsoff 0.5..3V
;.step param vto list -1.417 -2.808 -5.27
;.step dec param V1
.dc V1 list 17.5 18.5 25
;.step param V1 list 17.5 18.5 25
;.op
.model 4391 NJF(Beta=3.084m Betatce=-0.5 Vto={vto} Vtotc=-2.5m Lambda=17.5m Is=205.2f Xti=3 Isr=1988f Nr=2 Alpha=20.98u N=1 Rd=1 Rs=1 Cgd=5.35p Cgs=4.76p Fc=0.5 Vk=123.7 M=407m Pb=1 Kf=40230f Af=1 Mfg=Linear_Systems)
.model 4392 NJF(Beta=5.816m Betatce=-0.5 Vto={vto} Vtotc=-2.5m Lambda=12m Is=205.2f Xti=3 Isr=1988f Nr=2 Alpha=20.98u N=1 Rd=1 Rs=1 Cgd=4.83p Cgs=4.29p Fc=0.5 Vk=123.7 M=407m Pb=1 Kf=77640f Af=1 Mfg=Linear_Systems)
.model 4393 NJF(Beta=9.109m Betatce=-0.5 Vto={vto} Vtotc=-2.5m Lambda=8m Is=205.2f Xti=3 Isr=1988f Nr=2 Alpha=20.98u N=1 Rd=1 Rs=1 Cgd=4.57p Cgs=4.06p Fc=0.5 Vk=123.7 M=407m Pb=1 Kf=12300f Af=1 Mfg=Linear_Systems)
.backanno
.end
